US08207172B2
Preparation of 3-(2-bromoethyl)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-4,5-dihydro-3H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine
To 30 mL dichloromethane cooled to 0° C. was added 2-(6-{[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}-4,5-dihydro-3H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-3-yl)ethanol (800 mg, 1.58 mmol), followed by thionyl bromide (1.15 g, 5.54 mmol). The contents were then stirred with warming to rt over a 24 h period, after which time water (5 mL) was added to quench the reaction mixture. The solvent was removed under reduced pressure. The crude residue was diluted with aq. 1M Na2CO3 and vigorously stirred for 1 h. The mixture was extracted with CH2Cl2, and the combined organic layers dried over MgSO4, filtered, and concentrated in vacuo. The resulting solid was triturated with methanol (15 mL) to a light-brown solid (600 mg, 67%) containing 80% of the desired product, and 20% of the aromatized product. A sample of the crude product was purified via reverse phase HPLC to afford the desired product as a white solid. 1H-NMR (DMSO-d6) δ 8.58 (d, 1H), 8.38 (br s, 1H), 8.36 (s, 1H), 7.81 (dd, 1H), 7.78 (s, 1H), 7.70 (s, 1H), 7.44-7.60 (m, 2H), 7.31 (td, 1H), 7.19 (d, 1H), 5.23 (s, 2H), 4.30 (t, 2H), 3.82 (t, 2H), 3.38 (t, 2H), 3.07 (t, 2H); LCMS RT=2.77 min; [M+H]+=567.0.

reactant | dichloromethane | 30 mL | ClCCl | CH2Cl2
reactant | 2-(6-{[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}-4,5-dihydro-3H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-3-yl)ethanol | 1.58 mmol, 800 mg | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=C1C1=C(C=3C=NN(C3CC1)CCO)S2 | C25H21ClN6O2S
reactant | thionyl bromide | 5.54 mmol, 1.15 g | S(=O)(Br)Br | Br2OS
solvent | water | 5 mL | O | H2O
product | 3-(2-bromoethyl)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-4,5-dihydro-3H-pyrimido[5′,4′:4,5]thieno[2,3-e]indazol-6-amine | BrCCN1N=CC=2C3=C(CCC12)C=1C(S3)=NC=NC1NC1=CC(=C(C=C1)OCC1=NC=CC=C1)Cl | C25H20BrClN6OS
